US06777421B2
8-(2-chloro-4-methyl-1-phenyl-2,5-dihydro-1H-pyrazol-3-ylmethyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one (Compound # 303)
1-Phenyl-1,3,8-triazaspiro[4.5]decan-4-one (0.050 g, 0.216 mmol), 5-chloro-3-methyl-1-phenylpyrazole-4-carboxaldehyde (0.042 g, 0.216 mmol), and sodium triacetoxyborohydride (0.039 g, 0.216 mmol) were combined in dry 1,2-dichloroethane (10 mL). The reaction was stirred overnight at room temperature. The mixture was concentrated to about 1 mL and the residue was purified by preparative thin layer chromatography to yield the title compound as a white solid.

reactant | 1-Phenyl-1,3,8-triazaspiro[4.5]decan-4-one | 0.216 mmol, 0.050 g | C1(=CC=CC=C1)N1CNC(C12CCNCC2)=O | C13H17N3O
reactant | 5-chloro-3-methyl-1-phenylpyrazole-4-carboxaldehyde | 0.216 mmol, 0.042 g | ClC1=C(C(=NN1C1=CC=CC=C1)C)C=O | C11H9ClN2O
reactant | sodium triacetoxyborohydride | 0.216 mmol, 0.039 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | 8-(2-chloro-4-methyl-1-phenyl-2,5-dihydro-1H-pyrazol-3-ylmethyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one | ClN1N(CC(=C1CN1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1)C)C1=CC=CC=C1 | C24H28ClN5O
